US07932272B2
2-Amino-N-(5-(4-chloro-phenoxy)-thiophen-2-ylmethyl)-nicotinamide
A solution of 2-amino-nicotinic acid (21 mg, 0.15 mmol), C-(5-(4-chloro-phenoxy)-thiophen-2-yl)-methylamine described in Preparation Example 157 (36 mg, 0.15 mmol), benzotriazol-1-yl-tris(dimethylamino)phosphonium hexafluorophosphate (86 mg, 0.195 mmol) and triethylamine (0.065 mL, 0.45 mmol) in dimethylsulfoxide (1 mL) was stirred under nitrogen atmosphere for 17 hours at room temperature. This reaction solution was purified by reverse phase high performance liquid chromatography (acetonitrile-water mobile phase (containing 0.1% trifluoroacetic acid) was used), and trifluoroacetic acid salt of the title compound (17.7 mg, 0.037 mmol, 24.9%) was obtained as a pale yellow solid.

reactant | 2-amino-nicotinic acid | 0.15 mmol, 21 mg | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | C-(5-(4-chloro-phenoxy)-thiophen-2-yl)-methylamine | ClC1=CC=C(OC2=CC=C(S2)CN)C=C1 | C11H10ClNOS
reactant | benzotriazol-1-yl-tris(dimethylamino)phosphonium hexafluorophosphate | 0.195 mmol, 86 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.45 mmol, 0.065 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
solvent | acetonitrile water | C(C)#N.O
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Amino-N-(5-(4-chloro-phenoxy)-thiophen-2-ylmethyl)-nicotinamide | 0.037 mmol, 17.7 mg, 24.9% | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=C(C=C2)Cl)C=CC=N1 | C17H14ClN3O2S
